US06174877B1
3-(2-Acetylthioethyl)imidazo[1,5-a]pyrazine
To a solution of 3-(2-chloroethyl)imidazo[1,5-a]pyrazine (1.51 g) in DMF (10 ml) was added potassium thioacetate (1.23 g). The mixture was stirred for 4 hours at room temperature. To the reaction mixture was added water. The mixture was subjected to extraction with ethyl acetate (50 ml×4). The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was subjected to column chromatography (carrier: silica gel, 60 g, developing solvent: ethyl acetate) to give the title compound (1.65 g) as colorless solid product.

reactant | 3-(2-chloroethyl)imidazo[1,5-a]pyrazine | 1.51 g | ClCCC1=NC=C2N1C=CN=C2 | C8H8ClN3
reactant | potassium thioacetate | 1.23 g | C(C)(=S)[O-].[K+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-(2-Acetylthioethyl)imidazo[1,5-a]pyrazine | 1.65 g | C(C)(=O)SCCC1=NC=C2N1C=CN=C2 | C10H11N3OS
